US05580872
Step 1: Ethyl 1-ethyl-8-(3-methyl-1-piperazinyl)-4H-quinolizin-4-one-3-carboxylate
Ethyl 8-chloro-1-ethyl-4H-quinolizin-4-one-3-carboxylate (558 mg, 2.0 mmol), the product of Step 3 of Example 62, was dissolved in 10 mL of dry pyridine under a nitrogen atmosphere. To the resultant solution was added 600 mg (6.0 mmol) of 2-methylpiperazine and the stirred reaction mixture was heated at 65° C. for 3 hours. The reaction mixture was allowed to cool to ambient temperature and then concentrated in vacuo in order to remove all of the pyridine. The residue was dissolved in 60 mL of methylene chloride and the methylene chloride solution was washed with 60 mL of water. The aqueous layer was extracted with 2×60 mL of methylene chloride and the combined methylene chloride solutions were dried over anhydrous sodium sulfate, filtered and concentrated and dried in vacuo to afford 690 mg of the title compound. The product was carried on to the next step without purification.

reactant | Ethyl 8-chloro-1-ethyl-4H-quinolizin-4-one-3-carboxylate | 2.0 mmol, 558 mg | ClC=1C=CN2C(C(=CC(=C2C1)CC)C(=O)OCC)=O | C14H14ClNO3
reactant | 2-methylpiperazine | 6.0 mmol, 600 mg | CC1NCCNC1 | C5H12N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 1-ethyl-8-(3-methyl-1-piperazinyl)-4H-quinolizin-4-one-3-carboxylate | 690 mg | C(C)C=1C=C(C(N2C=CC(=CC12)N1CC(NCC1)C)=O)C(=O)OCC | C19H25N3O3
